US05219871
Preparation of 2,2-diphenyl-5-[N-(3,4-methylenedioxyphenethyl)-N-methylamino]pentanamide
A mixture containing 2,2-diphenyl-5-methylaminopentanamide (1.0 g-see Preparation 3), 3,4-methylenedioxyphenethyl bromide (0.9 g), anhydrous potassium carbonate (2.0 g) and acetonitrile (20 ml) was heated under reflux for 8 hours. The mixture was partitioned between dichloromethane (30 ml) and 5% sodium carbonate (20 ml), the layers separated and the aqueous layer extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a foam, yield 0.58 g, m.p. 89°-90°.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 1.0 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | 3,4-methylenedioxyphenethyl bromide | 0.9 g | C1OC=2C=C(CCBr)C=CC2O1 | C9H9BrO2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-(3,4-methylenedioxyphenethyl)-N-methylamino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(C)CCC1=CC2=C(C=C1)OCO2)C2=CC=CC=C2 | C27H30N2O3
